US04604389
N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenylthioethyl)-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-methylamine and 2-phenylthioethylchloride analogously to Example 3.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCNC)=O)C=C1OC | C16H24N2O3
reactant | 2-phenylthioethylchloride | C1(=CC=CC=C1)SCCCl | C8H9ClS
product | N-[3-(7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-(2-phenylthioethyl)-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCSC2=CC=CC=C2)C)=O)C=C1OC | C24H32N2O3S
